* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-2.asc
R2 N013 SEC {RL}
C1 N013 SEC {Cf} Rser=50m
D2 0 N004 D1
D1 N011 N012 D1
D3 SEC N012 D1
L4 N012 N013 {Lf} Rser=50m
L§ind3 N004 N001 {L3} Rser=20m
L§ind2 N011 SEC {L2} Rser=20m
L§ind1 N001 N002 {L1} Rser=20m
B1 N001 0 V=V(Vi)
V1 Vaux 0 12
Rs N006 0 10m
R4 N006 N007 10
C3 N007 0 2.2n
R6 N015 0 100k
R7 0 N014 160k
R8 0 N009 180k
C4 N008 0 1n
C5 Vref 0 0.1µ
R9 Vref N008 12k
R10 N008 0 18k
R11 N001 N005 240k
R12 N005 0 10k
XU2 Vbias SEC N022 N020 N023 P001 LT4430
R13 N013 N020 200K
R14 N020 SEC 27k
R15 P002 N023 4.7k
C7 N020 P002 10n
C8 N022 SEC 470p
R16 P001 N019 470
V2 Vbias SEC PULSE(0 5 0.5m 1n 1n 1)
M1 N002 N003 N006 N006 IPB200N25N3
XU1 N010 FB N009 MP_01 N008 Vref N005 0 N015 N007 N007 N014 0 N003 Vaux Sout LT1952-1
R21 0 SEC 1Meg
R22 N003 N006 10k
R1 N010 FB 33k
R3 N018 Vaux 220
R17 N021 FB 33k
R5 0 N021 1k
Q1 0 Vref N021 0 BC856B
XU3 N019 SEC N018 N021 NC_02 4N27
Vi Vi 0 PWL(0 0 0.499m 0 0.5m 36 2m 36 3m 36 3.01m 60)
C2 N020 N023 1p
C6 N010 0 220p
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.05 0
K1 ind1 ind2 ind3  1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 104.4u
.param fs  200k
.param Cf 47u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.lib 4N27.sub
.lib LT1952-1.sub
.lib LT4430.sub
.backanno
.end
